US07365085B2
a) 6-(4-Methyl-piperazin-1-yl)-pyridin-2-ol
To a stirring solution of 1-methyl-piperazine (10 ml) was added 6-chloro-2-pyridinol (1.5 g, 11.57 mmol) and the mixture was heated at 90° C. for 60 h. The reaction mixture was cooled to RT and concentrated under reduced pressure (while heating) to afford the title compound as a brown solid (66%). The crude material was used without further purification. MS (ESI) 194.2 (M+H+).

reactant | 6-chloro-2-pyridinol | 11.57 mmol, 1.5 g | ClC1=CC=CC(=N1)O | C5H4ClNO
reactant | 1-methyl-piperazine | 10 ml | CN1CCNCC1 | C5H12N2
product | 6-(4-Methyl-piperazin-1-yl)-pyridin-2-ol | 66% | CN1CCN(CC1)C1=CC=CC(=N1)O | C10H15N3O
